US05112859
[[4-(2,2-Dimethylpropyl)phenyl]methyl]heptylcarbamic acid[1,1'-biphenyl]-2-yl ester
Trichloromethyl chloroformate (2.1 mL, 17.4 mmol) is added dropwise over ten minutes under a nitrogen atmosphere to a solution of 2-phenylphenol (3.0 g, 17.6 mmol) in 50 mL of methylene chloride at ice bath temperature. After the addition of trichloromethyl chloroformate, triethylamine (2.5 mL, 17.9 mmol) is added dropwise over a ten minute period and the reaction mixture is stirred at ice bath temperature for 2.5 hours. A solution of N-[[4-(2,2-dimethylpropyl)phenyl]methyl]heptylamine (4.8 g, 17.4 mmol) and triethylamine (2.5 mL, 17.9 mmol) in methylene chloride (15 mL) is added at ice bath temperature over a thirty minute period. Then the ice bath is removed and the reaction mixture is stirred overnight. The reaction mixture is washed with 1N HCl, 5% NaHCO3, dried over MgSO4 and the solvent removed in vacuo to give, after purification by high pressure liquid chromatography (hexane-methylene chloride) the title compound as a light brown oil (2.37 g, 29% of theory), MS/me, 471 (M+).

reactant | Trichloromethyl chloroformate | 17.4 mmol, 2.1 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 2-phenylphenol | 17.6 mmol, 3.0 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | triethylamine | 17.9 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | N-[[4-(2,2-dimethylpropyl)phenyl]methyl]heptylamine | 17.4 mmol, 4.8 g | CC(CC1=CC=C(C=C1)CNCCCCCCC)(C)C | C19H33N
reactant | triethylamine | 17.9 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | [[4-(2,2-Dimethylpropyl)phenyl]methyl]heptylcarbamic acid[1,1'-biphenyl]-2-yl ester | C1(=C(C=CC=C1)OC(N(CCCCCCC)CC1=CC=C(C=C1)CC(C)(C)C)=O)C1=CC=CC=C1 | C32H41NO2
